### PR TITLE
lemmas about closure and connected

### PR DESCRIPTION
**Pull request by affeldt-aist**
@mkerjean

~embeds part of PR #266 for convenience (which should better be merged first)~ (has been merged)

### CODE REVIEW

File: theories/topology.v [hunk 1]
```diff
@@ -2141,6 +2141,55 @@ Proof.
 by move=> y fy FDf; apply: (closed_cvg_loc fy); apply: filterE.
 Qed.
 
+Section closure_lemmas.
+Variable T : topologicalType.
+Implicit Types E A B U : set T.
+
+Definition limit_point E := [set t : T |
+  forall U, nbhs t U -> exists y, [/\ y != t, E y & U y]].
```
Comment (CohenCyril) [inline theories/topology.v:2149]: Isn't it `cluster (globally E)`?

Comment (affeldt-aist) [reply theories/topology.v]: Couldn't yet figure out both directions.

Comment (mkerjean) [reply theories/topology.v]: Isn't it that `cluster (globally E)` is the disjoint union of `E` and `limit_point E` ?

Comment (mkerjean) [reply theories/topology.v]: Isn't `cluster (globally E)` exactly `closure E` ?

Comment (affeldt-aist) [reply theories/topology.v]: Indeed:
```
Lemma closure_cluster_globally E : closure E = cluster (globally E).
Proof.
rewrite closureE clusterE predeqE => t; split=> [Et A EA|Et A [cA EA]].
  by rewrite closureE => B [? AB]; apply Et; split=> //; exact: subset_trans AB.
by rewrite (iffLR (closure_id A) cA); exact: Et.
Qed.
```

Comment (CohenCyril) [reply theories/topology.v]: I found several redundancies thanks to this remark... but none of them cover `limit_point` indeed. 
Thus I found a concept generalizing all of `closure`, `cluster`, `limit_point`, `close_to` and `close`.
I'll be committing something soonish.

Comment (CohenCyril) [reply theories/topology.v]: done

File: theories/topology.v [hunk 2]
```diff
@@ -2655,8 +2751,21 @@ Local Open Scope classical_set_scope.
 Definition close_to (x : T) (A : set T) : Prop :=
   forall N, open_nbhs x N -> N `&` A !=set0.
 
-Definition close (x y : T) : Prop :=
-  forall M, open_nbhs y M -> close_to x M.
+Lemma close_toEonbhs x (A : set T) : close_to x A = closure A x.
```
Comment (CohenCyril) [inline theories/topology.v:2754]: This indicate that `closed_to` could be removed without loss...

File: theories/topology.v [hunk 3]
```diff
@@ -2776,6 +2885,90 @@ Definition connected (T : topologicalType) (A : set T) :=
...
 
+Definition separated (T : topologicalType) (A B : set T) :=
+  (closure A) `&` B = set0 /\ A `&` (closure B) = set0.
+
+Definition not_connected (T : topologicalType) (E : set T) :=
+  exists P : bool -> set T, [/\ forall b, P b !=set0,
+    separated (P false) (P true) & E = P false `|` P true].
+
+Lemma connectedP (T : topologicalType) (E : set T) :
+  connected E <-> ~ not_connected E.
```
Comment (CohenCyril) [inline theories/topology.v:2896]: No need to introduce a definition for the same concept... Morever, I'm not convinced having `P : bool -> set T` rather than two sets `(A B : setT)` is practical... So I suggest the following rephrasing:
```suggestion
Lemma connectedPn (T : topologicalType) (E : set T) :
  ~ connected E <->
    exists A B, [/\ A !=set0, B !=set0, E = A `|` B & separated A B].
```

Comment (affeldt-aist) [reply theories/topology.v:2896]: so `P : bool -> set T` is fine?

**Comment by CohenCyril** [comment]
Fixed and rebased
